US05616610
d) (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran
(R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran was dissolved in a mixture of diethyl ether and methylene chloride (90+10, 20 mL) and triethylamine (0.7 g, 7 mmol) was added and the mixture was cooled to -20 ° C. Trifluoromethanesulfonic anhydride (0.85 g, 3 mmol), dissolved in diethyl ether (10 mL), was added dropwise (5 min). After stirring for 30 min, the dark-brownish mixture was poured into water. The solvent was evaporated. The residue was dissolved in hexane and treated with active charcoal. Filtration trough celite and evaporation of the solvent afforded 0.67 g of the title compound as a colorless oil. GC/MS (70 eV) M=437 (1%).

reactant | (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran | C1(CCCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)O | C18H24FNO2
reactant | triethylamine | 7 mmol, 0.7 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 3 mmol, 0.85 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 0.67 g | C1(CCCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C19H23F4NO4S
